US06423869B1
(S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionic acid
A solution of ethyl (S)-3-[(2S,3R,4 R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionate (184 mg) in methanol (10 ml) was stirred at room temperature with 10% palladium on activated carbon (100 mg) under hydrogen atmosphere for 2 hours. After filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (10 ml) and to the solution was added 1N aqueous sodium hydroxide solution (2.2 ml) under ice-cooling. The mixture was stirred under ice-cooling for 1hour, followed by addition of 1N hydrochloric acid (2.2 ml). After concentration under reduced pressure, the residue was passed through a column of DIAION HP-20SS (Mitsubishi kasei corporation), followed by elution with water-acetonitrile. The effective fractions were combined and concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate to afford the title compound (50 mg).

reactant | ethyl (S)-3-[(2S,3R,4 R,5S)-2,3,4,6-tetraacetoxy-5-(N-benzyloxycarbonyl-L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionate | 184 mg | C(C)(=O)O[C@H](C(=O)N[C@@H](CC(=O)OCC)C1=CC=C(C=C1)C)[C@@H]([C@@H]([C@H](COC(C)=O)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)OC(C)=O)OC(C)=O | C40H53N3O14
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
product | (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-(4-methylphenyl)propionic acid | 50 mg | O[C@H](C(=O)N[C@@H](CC(=O)O)C1=CC=C(C=C1)C)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C22H35N3O8
